US08633186B2
(S)-2-sec-Butoxy-6-nitrobenzonitrile
Prepared as in Example 111c from (S)-butan-2-ol and 2,6-dinitrobenzonitrile in 85.2% yield. 1H NMR (400 MHz, DMSO-d6) δ 0.94 (t, J=7.6 Hz, 3H), 1.29 (d, J=6.4 Hz, 1H), 1.69 (m, 2H), 4.72 (m, 1H), 7.74 (dd, J=6.8, 2.4 Hz, 1H), 7.86 (m, 1H).

reactant | (S)-butan-2-ol | C[C@@H](CC)O | C4H10O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | (S)-2-sec-Butoxy-6-nitrobenzonitrile | 85.2% yield | [C@H](C)(CC)OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C11H12N2O3
